US04956371
N-(3,4-Dimethoxybenzoyl)-2-(3-methylphenyl) ethylamine (C1).
A stirred solution of 2-(3-methylphenyl) ethylamine (28.3 g, 0.21 mol) and 36.9 g of methyl 3,4-dimethoxybenzoate (36.9 g, 0.19 mol) was heated at 180° for 4 h. The crude amide was taken up in CH2Cl2 and washed with dilute HCl, dilute Na2CO3 and water. Chromatography over neutral alumina afforded 29 g (51%) of the title compound (one spot by tlc) eluted with CH2Cl2. The analytical sample showed mp 108-109° after crystallization from i-PrOH.

reactant | 2-(3-methylphenyl) ethylamine | 0.21 mol, 28.3 g | CC=1C=C(C=CC1)CCN | C9H13N
reactant | methyl 3,4-dimethoxybenzoate | 0.19 mol, 36.9 g | COC=1C=C(C(=O)OC)C=CC1OC | C10H12O4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(3,4-Dimethoxybenzoyl)-2-(3-methylphenyl) ethylamine | 29 g, 51% | COC=1C=C(C(=O)NCCC2=CC(=CC=C2)C)C=CC1OC | C18H21NO3
